US07923456B2
Step 3: 5-(2-Fluoro-4-iodo-phenylamino)-imidazo[1,5-a]pyrazine-6-carboxylic acid (2-hydroxy-ethoxy)-amide
To a solution of 5-(2-fluoro-4-iodo-phenylamino)-imidazo[1,5-a]pyrazine-6-carboxylic acid (2-vinyloxy-ethoxy)-amide (24.0 mg, 0.05 mmol) in methanol (0.5 mL) and dichloromethane (11.0 mL) was added 4M HCl in 1,4-dioxane (30 μL, 0.1 mmol, 2.5 eq.), and the reaction was stirred at ambient temperature under N2 for 2 h. The reaction mixture was concentrated in vacuo then poured into ethyl acetate. The organic layer was washed with a saturated solution of sodium bicarbonate, water, and brine. The organic phase was isolated, dried (Na2SO4), filtered and concentrated in vacuo. The resultant residue was subjected to flash chromatography (Si-PPC, gradient 0% to 25%, methanol in dichloromethane) to afford the title compound as yellow solid (11.6 mg, 51%). 1H NMR (MeOD, 400 MHz) δ ppm 8.74 (s, 1H), 7.87 (s, 1H), 7.84 (s, 1H), 7.62 (dd, J=10.20, 1.82 Hz, 1H), 7.48 (d, J=8.41 Hz, 1H), 6.61 (t, J=8.53 Hz, 1H), 4.05 (t, J=4.80 Hz, 2H), 3.78 (t, J=4.80 Hz, 2H)); LCMS (method E1): RT=4.33 min, [M+H]+=458.

reactant | 5-(2-fluoro-4-iodo-phenylamino)-imidazo[1,5-a]pyrazine-6-carboxylic acid (2-vinyloxy-ethoxy)-amide | 0.05 mmol, 24.0 mg | C(=C)OCCONC(=O)C=1N=CC=2N(C1NC1=C(C=C(C=C1)I)F)C=NC2 | C17H15FIN5O3
reactant | HCl | 4M | Cl | ClH
reactant | 1,4-dioxane | 0.1 mmol, 30 μL, 2.5 eq. | O1CCOCC1 | C4H8O2
solvent | methanol | 0.5 mL | CO | CH4O
solvent | dichloromethane | 11.0 mL | ClCCl | CH2Cl2
product | 5-(2-Fluoro-4-iodo-phenylamino)-imidazo[1,5-a]pyrazine-6-carboxylic acid (2-hydroxy-ethoxy)-amide | 11.6 mg, 51% | OCCONC(=O)C=1N=CC=2N(C1NC1=C(C=C(C=C1)I)F)C=NC2 | C15H13FIN5O3
